US07939661B2
Step 2: N-[6-Methyl-5-(piperidin-4-ylamino)-pyridin-2-yl]-acetamide dihydrochloride
A solution of 4-(6-acetylamino-2-methyl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.38 g, 1.09 mmol) in dioxane (10 mL) and 4 M HCl in dioxane (10 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 249.3 [M+H]+.

reactant | 4-(6-acetylamino-2-methyl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.09 mmol, 0.38 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C(=NC(=CC1)NC(C)=O)C | C18H28N4O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-[6-Methyl-5-(piperidin-4-ylamino)-pyridin-2-yl]-acetamide dihydrochloride | Cl.Cl.CC1=C(C=CC(=N1)NC(C)=O)NC1CCNCC1 | InChI=1S/C13H20N4O.2ClH/c1-9-12(17-11-5-7-14-8-6-11)3-4-13(15-9)16-10(2)18;;/h3-4,11,14,17H,5-8H2,1-2H3,(H,15,16,18);2*1H
